US08349880B2
Step AS (1): To a solution of ethyl 1,3-dithiane-2-carboxylate (500 mg, 2.60 mmol) and 1-bromo-4-chlorobutane (1337 mg, 7.80 mmol) in DMF (10 mL) was added 60% NaH (dispersion in mineral oil, 125 mg, 3.12 mmol). The mixture was stirred at rt for 16 h. The reaction mixture was quenched with water (100 mL) and extracted with EtOAc (2×100 mL). The combined organic layers were washed with water (3×100 mL) and concentrated in vacuo. The residue was purified using silica gel column chromatography (10% EtOAc/hexanes) to give ethyl 2-(4-chlorobutyl)-1,3-dithiane-2-carboxylate (550 mg, 75% yield). LC-MS (M+H)+ 283.0.

reactant | ethyl 1,3-dithiane-2-carboxylate | 2.60 mmol, 500 mg | S1C(SCCC1)C(=O)OCC | C7H12O2S2
reactant | 1-bromo-4-chlorobutane | 7.80 mmol, 1337 mg | BrCCCCCl | C4H8BrCl
reactant | NaH | 3.12 mmol, 125 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(4-chlorobutyl)-1,3-dithiane-2-carboxylate | 550 mg, 75% yield | ClCCCCC1(SCCCS1)C(=O)OCC | C11H19ClO2S2
